US08258129B2
b) (R)-2-(3H-imidazol-4-yl)-1-methyl-ethylamine
1.5 g (S)-1-bromomethyl-2-(3H-imidazol-4-yl)-ethylamine and 1.87 g sodium acetate are dissolved in 94 mL acetic acid (10%). After the addition of 400 mg palladium/C the suspension is shaken under 3.5 bar H2 pressure at RT for about 60 h. After the catalyst has been filtered off the solvent is eliminated in vacuo and the crude product is used without further purification in the following reaction step.

reactant | (S)-1-bromomethyl-2-(3H-imidazol-4-yl)-ethylamine | 1.5 g | BrC[C@H](CC=1NC=NC1)N | C6H10BrN3
reactant | sodium acetate | 1.87 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 94 mL | C(C)(=O)O | C2H4O2
catalyst | palladium | 400 mg | [Pd] | Pd
product | (R)-2-(3H-imidazol-4-yl)-1-methyl-ethylamine | N1=CNC(=C1)C[C@@H](C)N | C6H11N3
